US04310461
(A) [4S]-1-[(Phenylmethoxy)carbonyl]-4-(1-piperidinyl)-L-proline, methyl ester
A mixture of 15.0 g of 1-[(phenylmethoxy)carbonyl]-trans-4-tosyloxy-L-proline, methyl ester (J.A.C.S., 79, 191 (1957)) and 75 ml of piperidine is stirred at room temperature for 24 hours. The excess piperidine is removed under reduced pressure and the residue is dissolved in 50 ml of chloroform. The latter solution is extracted twice with 10 ml portions of water, dried (MgSO4), filtered and the solvent evaporated to give the title compound.

reactant | 1-[(phenylmethoxy)carbonyl]-trans-4-tosyloxy-L-proline, methyl ester | 15.0 g | C1(=CC=CC=C1)COC(=O)N1[C@H](C(=O)OC)C[C@H](C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C21H23NO7S
reactant | piperidine | 75 ml | N1CCCCC1 | C5H11N
product | [4S]-1-[(Phenylmethoxy)carbonyl]-4-(1-piperidinyl)-L-proline, methyl ester | C1(=CC=CC=C1)COC(=O)N1[C@H](C(=O)OC)C[C@@H](C1)N1CCCCC1 | C19H26N2O4
